US05290798
Step 1: Methyl 3-[1-(4-chlorobenzyl)-3-methyl-5-(4-prop-2-ylthiazol-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropanoate
A solution of methyl 3-[1-(4-chlorobenzyl)-3-methyl-5-hydroxyindol-2-yl]-2,2-dimethylpropanoate (Preparation 1) (50 mg), 2-chloromethyl-4-prop-2-ylthiazole (30 mg), K2CO3 (60 mg), and Cs2CO3 (10 mg) in 2 mL DMF was stirred at room temperature under nitrogen for 24 hours. The mixture was poured onto sat.'d NH4Cl solution, extracted 2× Et2O, washed 2× brine, dried (MgSO4), and evaporated. The residue was chromatographed on silica gel (hexane/EtOAc 4:1) to give the title compound.

reactant | methyl 3-[1-(4-chlorobenzyl)-3-methyl-5-hydroxyindol-2-yl]-2,2-dimethylpropanoate | 50 mg | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)O)C)CC(C(=O)OC)(C)C)C=C1 | C22H24ClNO3
reactant | 2-chloromethyl-4-prop-2-ylthiazole | 30 mg | ClCC=1SC=C(N1)C(C)C | C7H10ClNS
reactant | K2CO3 | 60 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | Cs2CO3 | 10 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methyl 3-[1-(4-chlorobenzyl)-3-methyl-5-(4-prop-2-ylthiazol-2-ylmethoxy)indol-2-yl]-2,2-dimethylpropanoate | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OCC=2SC=C(N2)C(C)C)C)CC(C(=O)OC)(C)C)C=C1 | C29H33ClN2O3S
